US09421213B2
3-Fluorobenzene-1,2-diamine (0.600 g, 4.76 mmol) was dissolved in THF (14.82 ml) and 1,1′-carbonyldiimidazole (0.848 g, 5.23 mmol) was added at RT. The reaction mixture was stirred overnight at RT and then heated for 24 hours at 50° C. The mixture was cooled to RT and ammonia in MeOH (1.5 ml) was added and the mixture stirred for 30 minutes. The mixture was diluted with water (40 ml) and the resultant brown solid was collected by filtration, washed with water and then dried in vacuo to afford 4-fluoro-1H-benzo[d]imidazol-2(3H)-one (0.700 g, 97%) which was used in the next step without further purification; 1H NMR (400 MHz, DMSO-d6) 6.81 (2H, ddd), 6.88-6.95 (1H, m), 10.82 (1H, s), 11.08 (1H, s); m/z: (ES-) M-H−, 151.19. b) A solution of 4-fluoro-1H-benzo[d]imidazol-2(3H)-one (0.7 g, 4.60 mmol) in phosphorus oxychloride (14.11 ml, 151.39 mmol) was heated at 100° C. for 18 hours. The reaction mixture was cooled to RT and excess phosphorus oxychloride was evaporated in vacuo. The residue was neutralized slowly (Care: exotherm) with saturated sodium bicarbonate solution (10 ml), and the mixture was then extracted with EtOAc (3×20 ml). The combined organic layers were washed with saturated brine and then dried over Na2SO4, filtered and evaporated to afford 2-chloro-7-fluoro-1H-benzo[d]imidazole (0.740 g, 94%) which was used in the next step without further purification; 1H NMR (400 MHz, DMSO-d6) 7.01-7.11 (1H, m), 7.23 (1H, td), 7.32 (1H, s), 13.59 (1H, s); m/z: (ES+) MH+, 171.20. c) 2-Chloro-7-fluoro-1H-benzo[d]imidazole (1.7 g, 9.97 mmol) was charged to a high pressure autoclave PV10832 (Parr 160 ml) with methylamine (40% EtOH solution, 50 ml, 9.97 mmol) and sealed on its trolley and the resulting solution heated to 160° C. in high pressure blast cell 60 for 16 hours. The pressure in the autoclave reached 13 bar. The mixture was evaporated and the residue dissolved in MeOH and then added to an SCX column. The column was eluted with 7N ammonia in MeOH and fractions containing product were evaporated to leave a brown oil. The oil was was purified by flash chromatography on silica, eluting with a gradient of 5 to 20% MeOH in DCM. Pure fractions were evaporated to afford 7-fluoro-N-methyl-1H-benzo[d]imidazol-2-amine (1.230 g, 75%); 1H NMR (400 MHz, DMSO-d6) 2.88 (3H, d), 6.54 (1H, bs), 6.67-6.73 (1H, m), 6.81 (1H, dd), 6.95 (1H, d); m/z: (ES+) MH+, 166.00.

reactant | 2-Chloro-7-fluoro-1H-benzo[d]imidazole | 9.97 mmol, 1.7 g | ClC1=NC2=C(N1)C(=CC=C2)F | C7H4ClFN2
reactant | methylamine | 9.97 mmol, 50 ml | CN | CH5N
product | 7-fluoro-N-methyl-1H-benzo[d]imidazol-2-amine | 1.230 g, 75% | FC1=CC=CC2=C1NC(=N2)NC | C8H8FN3
